US04742052
A mixture of thiobenzoic acid (890 mg) and sodium hydride (50%) (220 mg) in dimethylformamide (8 ml) was stirred for 10 minutes with ice-cooling. 5-p-Toluenesulfonyloxy-2-methyl-2-(p-nitrobenzyloxycarbonyl)aminopentane (1.64 g) in dimethylformamide (8 ml) was added thereto, followed by stirring for 25 minutes. The reaction mixture was diluted with ethyl acetate, washed with dilute hydrochloric acid and then water, dried over anhydrous sodium sulfate and evaporated to give an oily residue which was then purified by silica gel chromatography to give 5-benzoylthio-2-methyl-2-(p-nitrobenzyloxycarbonyl)aminopentane.

reactant | thiobenzoic acid | 890 mg | C(C1=CC=CC=C1)(=S)O | C7H6OS
reactant | sodium hydride | 220 mg | [H-].[Na+]
reactant | 5-p-Toluenesulfonyloxy-2-methyl-2-(p-nitrobenzyloxycarbonyl)aminopentane | 1.64 g | C1(=CC=C(C=C1)S(=O)(=O)OCCCC(C)(NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C)C | C21H26N2O7S
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | dimethylformamide | 8 ml | CN(C=O)C | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 5-benzoylthio-2-methyl-2-(p-nitrobenzyloxycarbonyl)aminopentane | C(C1=CC=CC=C1)(=O)SCCCC(C)(NC(=O)OCC1=CC=C(C=C1)[N+](=O)[O-])C | C21H24N2O5S
